US08735417B2
A solution of TMS-isothiocyanate (5.4 mL, 38 mmol) and ethyl piperidine-4-carboxylate (5.9 ml, 38 mmol) in tetrahydrofuran (127 ml) was stirred at room temperature for 3 days. The mixture was then diluted with 500 mL ethyl acetate and washed with 500 mL water and 500 mL brine. The aqueous fractions were further extracted with 500 mL ethyl acetate. The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by CombiFlash (40-100% ethyl acetate/hexanes) to provide 1.85 g (7.7 mmol, 20%) of ethyl 1-carbamothioylpiperidine-4-carboxylate as a white solid.

reactant | TMS-isothiocyanate | 38 mmol, 5.4 mL | [Si](C)(C)(C)N=C=S | C4H9NSSi
reactant | ethyl piperidine-4-carboxylate | 38 mmol, 5.9 ml | N1CCC(CC1)C(=O)OCC | C8H15NO2
solvent | tetrahydrofuran | 127 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 1-carbamothioylpiperidine-4-carboxylate | 7.7 mmol, 1.85 g, 20% | C(N)(=S)N1CCC(CC1)C(=O)OCC | C9H16N2O2S
